US03947434
A. 2,4-Dinitrophenylbenzamide
To a solution of 73.2 g. (0.4 m.) of 2,4-dinitroaniline in 400 ml. of pyridine with stirring and slight warming was added 56.2 g. (0.4 m.) of benzoyl chloride in about 10 min.; the temperature rose from 40° to 50°. Then the dark solution was heated at reflux for 21/2 hours. After standing overnight, the yellow solid was collected, washed with H2O until no pyridine odor was detectable. This 90 g. of crude product was recrystallized from about 2.1 of CH3CN to yield 44 g. (38%) of yellow product melting at 201°-205°.

reactant | 2,4-dinitroaniline | [N+](=O)([O-])C1=C(N)C=CC(=C1)[N+](=O)[O-] | C6H5N3O4
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | pyridine | N1=CC=CC=C1 | C5H5N
product | 2,4-Dinitrophenylbenzamide | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])C1=C(C(=O)N)C=CC=C1 | C13H9N3O5
